US08541448B2
Intermediate 10.4: 4-(4-bromophenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinoline
Into a 50-mL 3-necked round-bottom flask, was placed a solution of 2-((2,4-dichlorobenzyl)(methyl)amino)-1-(4-bromophenyl)ethanol (1.0 g, 2.57 mmol, 1.00 equiv) in dichloromethane (3 mL). This was followed by the addition of conc.H2SO4 (2 mL) dropwise with stirring at 0-5° C. The resulting solution was stirred for 3 h at 20° C. The reaction was then quenched by the addition of water/ice. The pH value of the solution was adjusted to 9 with sodium hydroxide. The resulting solution was extracted with dichloromethane (2×30 mL) and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 0.9 g of the title compound which was used without further purification. MS (ES, m/z): 372 [M+H]+.

reactant | 2-((2,4-dichlorobenzyl)(methyl)amino)-1-(4-bromophenyl)ethanol | 2.57 mmol, 1.0 g, 1.00 equiv | ClC1=C(CN(CC(O)C2=CC=C(C=C2)Br)C)C=CC(=C1)Cl | C16H16BrCl2NO
reactant | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(4-bromophenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinoline | 0.9 g | BrC1=CC=C(C=C1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)C | C16H14BrCl2N
